US06084106
4-phenylethynyl-N [3-triethoxysilylpropyl] phthalimide was synthesized as follows. 4-phenylethynyl phthalic anhydride (PEPA) was added to a round bottom flask containing sufficient tetrahydrafuran (THF) to dissolve the PEPA. An equimolar amount of 3-aminopropytriethoxy silane (3-APS) was added to the mixture at room temperature. The mixture was then heated over a steam bath until the THF mixture began to boil (T=65° C.). The heating continued for approximately 5 minutes. The solution was then removed from the steam bath and allowed to cool. The solvent was removed using a rotovaporator at 40° C. The resulting product is a thick, viscous, yellow (amber) liquid.

reactant | 4-phenylethynyl phthalic anhydride | C1(=CC=CC=C1)C#CC=1C=C2C(C(=O)OC2=O)=CC1 | C16H8O3
reactant | 3-aminopropytriethoxy silane | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
solvent | THF | C1CCOC1 | C4H8O
product | 4-phenylethynyl-N [3-triethoxysilylpropyl] phthalimide | C1(=CC=CC=C1)C#CC=1C=C2C(C(=O)N(C2=O)CCC[Si](OCC)(OCC)OCC)=CC1 | C25H29NO5Si
